US08202858B2
(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-{2-fluoro-4-[3-(4-hexyl-piperazin-1-yl)-propoxy]-phenyl}-methanone
A solution of 1-bromohexane (0.83 mg, 0.005 mmol) in DMF (0.05 ml) was added to a solution of (6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[2-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride from Example E5a (2.85 mg, 0.005 mmol) in DMF (0.05 ml) and triethylamine (0.0021 ml). The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=583.6

reactant | 1-bromohexane | 0.005 mmol, 0.83 mg | BrCCCCCC | C6H13Br
reactant | (6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[2-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride | Cl.Cl.ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2=C(C=C(C=C2)OCCCN2CCNCC2)F)C)C1
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.0021 ml | C(C)N(CC)CC | C6H15N
product | (6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-{2-fluoro-4-[3-(4-hexyl-piperazin-1-yl)-propoxy]-phenyl}-methanone | ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2=C(C=C(C=C2)OCCCN2CCN(CC2)CCCCCC)F)C)C1 | C31H40ClFN6O2
